US08022222B2
Step D: Preparation of 1-(4-(benzyloxy)-5-bromopyridin-2-yl)thiourea:
A flask was charged with 1-benzoyl-3-(4-(benzyloxy)-5-bromopyridin-2-yl)thiourea (9.8 g, 22.2 mmol) and THF (200 mL). 6N NaOH (100 mL) and NaOH (5 g) were added. The reaction was stirred at 60° C. for 3 hours, then concentrated and filtered to give the desired product (2.54 g, 33.9% yield) as off white solid.

reactant | 1-benzoyl-3-(4-(benzyloxy)-5-bromopyridin-2-yl)thiourea | 22.2 mmol, 9.8 g | C(C1=CC=CC=C1)(=O)NC(=S)NC1=NC=C(C(=C1)OCC1=CC=CC=C1)Br | C20H16BrN3O2S
reactant | NaOH | 6N, 100 mL | [OH-].[Na+]
reactant | NaOH | 5 g | [OH-].[Na+]
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 1-(4-(benzyloxy)-5-bromopyridin-2-yl)thiourea | 2.54 g, 33.9% yield | C(C1=CC=CC=C1)OC1=CC(=NC=C1Br)NC(=S)N | C13H12BrN3OS
